US09079889B2
Method 1 was followed using 6-bromo-5-fluoropicolinic acid (1.0 equiv.) and cyclohexenylboronic acid (1.3 equiv.) and Pd(dppf)Cl2-DCM (0.15 equiv.) to give 6-cyclohexenyl-5-fluoropicolinic acid in 61% yield. LC/MS=222.0 (M+H), Rt=0.52 min.

reactant | 6-bromo-5-fluoropicolinic acid | 1.0 equiv. | BrC1=C(C=CC(=N1)C(=O)O)F | C6H3BrFNO2
reactant | cyclohexenylboronic acid | 1.3 equiv. | C1(=CCCCC1)B(O)O | C6H11BO2
catalyst | Pd(dppf)Cl2 DCM | 0.15 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 6-cyclohexenyl-5-fluoropicolinic acid | 61% yield | C1(=CCCCC1)C1=C(C=CC(=N1)C(=O)O)F | C12H12FNO2
